US07495001B2
E] [rac]-[4-(Methyl-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethyl}-amino)-naphthalen-1-yloxy]-acetic acid ethyl ester
0.095 g (0.37 mmol) of the above prepared (4-methylamino-naphthalen-1-yloxy)-acetic acid ethyl ester and 0.220 g of [rac]-3-(1-chloro-ethyl)-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine (see below 1G], 2.0 eq.) were treated in 2.8 ml of DMSO with 0.110 g (1 eq.) of NaI and 0.168 g (1.5 eq.) of DBU. After stirring for 20 h at 40° C., the reaction mixture was poured onto crashed ice/KHSO4, extracted twice with AcOEt, washed with water and brine, and dried over sodium sulfate. Evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=85/15), afforded 0.055 g of the title compound as light brown oil.

reactant | (4-methylamino-naphthalen-1-yloxy)-acetic acid ethyl ester | C(C)OC(COC1=CC=C(C2=CC=CC=C12)NC)=O | C15H17NO3
reactant | [rac]-3-(1-chloro-ethyl)-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | 0.220 g | ClC(C)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C15H13ClF3N
reactant | NaI | 0.110 g, 1 eq. | [Na+].[I-]
reactant | DBU | 0.168 g, 1.5 eq. | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMSO | 2.8 ml | CS(=O)C | C2H6OS
product | [rac]-[4-(Methyl-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethyl}-amino)-naphthalen-1-yloxy]-acetic acid ethyl ester | 0.055 g | C(C)OC(COC1=CC=C(C2=CC=CC=C12)N(C(C)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C30H29F3N2O3
